US07906537B2
(5-Chloro-thiophen-2-ylmethyl)-[3-chloro-4-(2,2,2-trifluoro-acetylamino)-phenyl]-carbamic acid tert-butyl ester
A mixture of N-{2-Chloro-4-[(5-chloro-thiophen-2-ylmethyl)-amino]-phenyl}-2,2,2-trifluoroacetamide (2.219 g, 6.01 mmol), di-tert-butyl dicarbonate (2 g), and acetonitrile (3 mL) was heated to +80° C. until reaction completion (36 hours). During this time additional amount of di-tert-butyl dicarbonate was added (2×1.5 g). The obtained reaction mixture was evaporated in vacuo (80° C., 0.1 mbar) to give the crude title compound which was used in the next step without further purification. 1H NMR DMSO-d6): 1.44 (s, 9H), 4.94 (s, 2H), 6.81 (d, 1H), 6.93 (d, 1H), 7.25 (dd, 1H), 7.43 (d, 1H), 7.50 (d, 1H), 11.24 (br. s, 1H, NHCO). LC/MS (m/z) 366.9 ([M-Boc]+); RT=3.99, (UV, ELSD) 87%, 96%.

reactant | N-{2-Chloro-4-[(5-chloro-thiophen-2-ylmethyl)-amino]-phenyl}-2,2,2-trifluoroacetamide | 6.01 mmol, 2.219 g | ClC1=C(C=CC(=C1)NCC=1SC(=CC1)Cl)NC(C(F)(F)F)=O | C13H9Cl2F3N2OS
reactant | di-tert-butyl dicarbonate | 2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (5-Chloro-thiophen-2-ylmethyl)-[3-chloro-4-(2,2,2-trifluoro-acetylamino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1=CC(=C(C=C1)NC(C(F)(F)F)=O)Cl)CC=1SC(=CC1)Cl)=O | C18H17Cl2F3N2O3S
